US07625914B2
30 g (108 mmol) of ethyl 6-iodonicotinate dissolved in 300 ml of ethanol are added dropwise to a solution of 20.5 g (542 mmol) of sodium borohydride in 200 ml of ethanol, cooled beforehand to 0° C. The reaction medium is allowed to warm to room temperature and is then stirred for 1 hour 30 minutes at room temperature. The reaction medium is hydrolysed and extracted with ethyl acetate. The boron salts precipitate out, and the medium is filtered and then evaporated to dryness. The reaction medium is taken up in dichloromethane, the product precipitates out, isopropyl ether is added and the medium is filtered. The precipitate is washed with isopropyl ether. 17 g (67%) of (6-iodopyrid-3-yl)methanol are obtained in the form of a pale yellow solid with a melting point of 102° C.

reactant | ethyl 6-iodonicotinate | 108 mmol, 30 g | IC1=NC=C(C(=O)OCC)C=C1 | C8H8INO2
reactant | sodium borohydride | 542 mmol, 20.5 g | [BH4-].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (6-iodopyrid-3-yl)methanol | 17 g, 67% | IC1=CC=C(C=N1)CO | C6H6INO
